US06451794B1
(ii) 2-(4-Ethoxy-phenyl)-pyrazolo[1,5-b]pyridazine-3-carboxylic Acid
A mixture of 2-(4-ethoxy-phenyl)-pyrazolo[1,5-b]pyridazine-3-carboxylic acid methyl ester (1.2 g), ethanol (10 ml) and 2N sodium hydroxide (10 ml) was heated to 800 for 1.5 h. The mixture was allowed to cool and acidified to pH 1 with 2N hydrochloric acid. The title compound was isolated by filtration as a brown solid (716 mg, 63%). MH+ 284.

reactant | 2-(4-ethoxy-phenyl)-pyrazolo[1,5-b]pyridazine-3-carboxylic acid methyl ester | 1.2 g | COC(=O)C=1C(=NN2N=CC=CC21)C2=CC=C(C=C2)OCC | C16H15N3O3
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(4-Ethoxy-phenyl)-pyrazolo[1,5-b]pyridazine-3-carboxylic Acid | C(C)OC1=CC=C(C=C1)C1=NN2N=CC=CC2=C1C(=O)O | C15H13N3O3
